US05288750
1,4-bis-(2-acetyl-3-oxo-l-butenyl)benzene
To a mixture containing 1.34 g of 1,4-benzenedicarboxaldehyde and 2.1 g of 2,4-pentanedione in 20ml of 2-propanol was gradually added 3.0 g of thionyl chloride with stirring and cooling below 20° C. The mixture was stirred over night at room temperature, filtered and washed with 2-propanol. Yield 1.1 g (55%).

reactant | 1,4-benzenedicarboxaldehyde | 1.34 g | C1(=CC=C(C=C1)C=O)C=O | C8H6O2
reactant | 2,4-pentanedione | 2.1 g | CC(CC(C)=O)=O | C5H8O2
reactant | thionyl chloride | 3.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | 2-propanol | 20ml | CC(C)O | C3H8O
product | 1,4-bis-(2-acetyl-3-oxo-l-butenyl)benzene | C(C)(=O)C(=CC1=CC=C(C=C1)C=C(C(C)=O)C(C)=O)C(C)=O | C18H18O4
